US07202363B2
ethyl 4-({(2E)-3-[4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridin-7-yl]prop-2-enyl}amino)piperidine-1-carboxylate
To a suspension of N-(4-{4-amino-7-[(1E)-3-aminoprop-1-enyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide (0.050 g, 0.104 mmol) and ethyl 4-oxo-1-piperidinecarboxylate (0.017 g, 0.087 mmol) in dichloroethane (1.5 mL) was added sodiumtriacetoxy borohydride (0.036 g, 0.173 mmol). The resulting solution was allowed to stir at room temperature for 12 hours. Upon completion, the reaction solution was treated with an aqueous solution of 10% sodium hydroxide (3 mL) and dichloromethane (3 mL). The two layers were stirred for 15 minutes, followed by filtration through an Empore™ cartridge, and removal of the solvent. The resulting crude product was purified by trituration of the residue in ethanol and collection of the title compound (0.030 g, 45%) as a white powder. LCMS (Conditions a) Rt 3.57 minutes, 639.4 (MH+); 1H NMR (400 MHz, DMSO-d6) δ 9.51 (s, 1H), 8.01 (dd, J=8.2 Hz, J=7.8 Hz, 1H), 7.95 (s, 1H), 7.71 (d, J=8.2 Hz, 1H), 7.62 (s, 1H), 7.59 (d, J=8.2 Hz, 1H), 7.35 (s, 1H), 7.32 (d, J=8.5 Hz, 1H), 7.21 (d, J=1.9 Hz, 1H), 7.15 (t, J=7.8 Hz, 1H), 7.08 (dd, J=8.2 Hz, 1.9 Hz, 1H), 6.67 (d, J=16.0 Hz, 1H), 6.29 (td, J=16.4 Hz, J=5.9 Hz, 1H), 5.61 (s (br), 1H), 4.04 (s, 3H), 4.02 (q, J=7.02 Hz, 2H), 3.91 (s, 3H), 3.88 (m, 2H), 3.42 (d, J=5.5 Hz, 2H), 2.87 (m, 2H), 2.67 (m, 1H), 1.83 (m, 2H), 1.19 (m, 2H), 1.18 (t, J=7.02 Hz, 3H).

reactant | N-(4-{4-amino-7-[(1E)-3-aminoprop-1-enyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide | 0.104 mmol, 0.050 g | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)\C=C\CN | C27H25N5O2S
reactant | ethyl 4-oxo-1-piperidinecarboxylate | 0.087 mmol, 0.017 g | O=C1CCN(CC1)C(=O)OCC | C8H13NO3
reactant | sodiumtriacetoxy borohydride | 0.173 mmol, 0.036 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 3 mL | [OH-].[Na+]
solvent | dichloroethane | 1.5 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | ethyl 4-({(2E)-3-[4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridin-7-yl]prop-2-enyl}amino)piperidine-1-carboxylate | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)/C=C/CNC2CCN(CC2)C(=O)OCC | C35H38N6O4S
